### PR TITLE
feat(ErdosProblems): 400

### LINKED ISSUE #711: Erdős Problem 400
### What is the conjecture
    
https://www.erdosproblems.com/400

  For any $k\geq 2$ let $g_k(n)$ denote the maximum value of 
$$(a_1+\cdots+a_k)-n$$
where $a_1,\ldots,a_k$ are integers such that $a_1!\cdots a_k! \mid n!$. Can one show that
$$\sum_{n\leq x}g_k(n) \sim c_k x\log x$$
for some constant $c_k$? Is it true that there is a constant $c_k$ such that for almost all $n<x$ we have
$$g_k(n)=c_k\log x+o(\log x)?$$

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by danielchin**
Closes #711 

Formalizes Erdos Problem 400: https://www.erdosproblems.com/400

Let me know if parts.ii makes sense. It was a little weird with the `almost all` in the original question.

Assisted by Gemini/Antigravity

### CODE REVIEW

File: FormalConjectures/ErdosProblems/400.lean [hunk 1]
```diff
@@ -0,0 +1,70 @@
...
+open scoped Asymptotics Topology
+
+namespace Erdos400
+
+/--
+For any $k\geq 2$ let $g_k(n)$ denote the maximum value of $(a_1+\cdots+a_k)-n$
+where $a_1,\ldots,a_k$ are integers such that $a_1!\cdots a_k! \mid n!$.
+-/
+noncomputable def g (k n : ℕ) : ℕ :=
+  sSup { m : ℕ | ∃ a : Fin k → ℕ, m = (∑ i, a i) - n ∧ (∏ i, (a i).factorial) ∣ n.factorial }
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/400.lean]:
```suggestion
  sSup { ((∑ i, a i) - n) | (a : Fin k → ℕ) (_ : (∏ i, (a i) !) ∣ n !) }
```
No need to introduce the additional `m`. Also: let's use notation for factorial!

File: FormalConjectures/ErdosProblems/400.lean [hunk 2]
```diff
@@ -0,0 +1,70 @@
...
+
+/--
+Can one show that $\sum_{n\leq x}g_k(n) \sim c_k x\log x$ for some constant $c_k$?
+-/
+@[category research open, AMS 11]
+theorem erdos_400.parts.i :
+    answer(sorry) ↔ ∀ᵉ (k : ℕ) (hk : k ≥ 2), ∃ c : ℝ,
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/400.lean]:
```suggestion
    answer(sorry) ↔ ∀ᵉ (k ≥ 2), ∃ c : ℝ,
```

File: FormalConjectures/ErdosProblems/400.lean [hunk 3]
```diff
@@ -0,0 +1,70 @@
...
+
+namespace Erdos400
+
+/--
+For any $k\geq 2$ let $g_k(n)$ denote the maximum value of $(a_1+\cdots+a_k)-n$
+where $a_1,\ldots,a_k$ are integers such that $a_1!\cdots a_k! \mid n!$.
+-/
+noncomputable def g (k n : ℕ) : ℕ :=
+  sSup { m : ℕ | ∃ a : Fin k → ℕ, m = (∑ i, a i) - n ∧ (∏ i, (a i).factorial) ∣ n.factorial }
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/400.lean:37]:
```lean
theorem g_pos (k n : ℕ) (h: k ≥ 2) : 0 < g k n := by
  sorry
```
potentially a good test statement (not true for `k ≥ 1`)

File: FormalConjectures/ErdosProblems/400.lean [hunk 4]
```diff
@@ -0,0 +1,70 @@
...
+theorem erdos_400.parts.ii :
+    answer(sorry) ↔ ∀ᵉ (k : ℕ) (hk : k ≥ 2), ∃ c : ℝ, ∀ ε > 0,
+      Tendsto (fun x : ℕ ↦
+        (((Icc 1 x).filter (fun n ↦
+          |(g k n : ℝ) - c * Real.log x| ≤ ε * Real.log x)).card : ℝ) / x)
+        atTop (𝓝 1) := by
+  sorry
+
+/--
+Erdős and Graham write that it is easy to show that $g_k(n) ≪_k \log n$ always, but the best
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/400.lean]:
```suggestion
Erdős and Graham write that it is easy to show that $g_k(n) \ll_k \log n$ always, but the best
```
Does this look better/different in the converted latex markdown?

File: FormalConjectures/ErdosProblems/400.lean [hunk 5]
```diff
@@ -0,0 +1,70 @@
...
+possible constant is unknown.
+-/
+@[category research solved, AMS 11]
+theorem erdos_400.variants.upper_bound (k : ℕ) (hk : k ≥ 2) :
+    (fun n : ℕ ↦ (g k n : ℝ)) =O[atTop] (fun n : ℕ ↦ Real.log (n : ℝ)) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/400.lean]: might it make sense to out `≪` notation here?

**Review by mo271 — COMMENTED** [review]
Thanks! A few comments...

File: FormalConjectures/ErdosProblems/400.lean (hunk 1 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/400.lean]: Done.

File: FormalConjectures/ErdosProblems/400.lean (hunk 2 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/400.lean]: Done.

File: FormalConjectures/ErdosProblems/400.lean (hunk 4 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/400.lean]: Yeah, \ll_k looks better.

File: FormalConjectures/ErdosProblems/400.lean (hunk 5 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/400.lean]: Done

File: FormalConjectures/ErdosProblems/400.lean (hunk 3 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/400.lean:37]: I've added this test and and a proof generated by Gemini. It is a tad long, if you think it's too long, I can just replace it with a `sorry`.

File: FormalConjectures/ErdosProblems/400.lean [hunk 6]
```diff
@@ -0,0 +1,138 @@
...
+        have hd2 : (a' i) ! ∣ n ! := dvd_trans hd1 h_div
+        exact Nat.le_of_dvd (Nat.factorial_pos n) hd2
+      have h_a_le : ∀ i, a' i ≤ n ! := fun i => le_trans (h_le_fa i) (h_le_n i)
+      have h_sum_le : (∑ i, a' i) ≤ k * n ! := by
+        have hs : (∑ i : Fin k, n !) = k * n ! := by simp
+        rw [← hs]
+        exact Finset.sum_le_sum fun i _ => h_a_le i
+      omega
+    exact le_csSup h_bdd h_mem
+  exact h_le
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/400.lean]:
```suggestion
  sorry
```

yeah, this is too long/cumbersome for my taste... (for instance already the first two lines of this proof assert the same thing twice....)

**Review by mo271 — APPROVED** [review]
thanks, LGTM, but let's remove the proof of the test statement

File: FormalConjectures/ErdosProblems/400.lean (hunk 6 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/400.lean]: Removed.

**Comment by mo271** [comment]
Thanks!
